US05576323
4-(2-Dibenzofuranoxy)glutamic Acid (31)
A mixture of lithium hydroxide (0.0943 g) in water (1.4 ml) and tetrahydrofuran (4.3 ml) was treated with methyl 3-(2-dibenzofuranoxy)-2-pyrrolidone-5-carboxylate (0.427 g), and heated to 61° C. After about 2.4 hours, the reaction mixture was allowed to cool to room temperature. The reaction mixture was treated with 5N HCl (787 ml). The reaction mixture was then treated with water (3 ml). The insolubles were collected by filtration , washed with 1:1 tetrahydrofuran:water (2 ml), tetrahydrofuran (5 ml). The insolubles were dried overnight in at vacuum oven at 70° C. to afford the title compound.

reactant | lithium hydroxide | 0.0943 g | [OH-].[Li+]
reactant | methyl 3-(2-dibenzofuranoxy)-2-pyrrolidone-5-carboxylate | 0.427 g | C1=C(C=CC=2OC3=C(C21)C=CC=C3)OC3C(NC(C3)C(=O)OC)=O | C18H15NO5
reactant | HCl | 5N, 787 ml | Cl | ClH
solvent | water | 1.4 ml | O | H2O
solvent | tetrahydrofuran | 4.3 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | 4-(2-Dibenzofuranoxy)glutamic Acid | C1=C(C=CC=2OC3=C(C21)C=CC=C3)OC(C[C@H](N)C(=O)O)C(=O)O | C17H15NO6
